Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ Y/o M presents to ED with head strike s/p scooter accident. 
The patient reports he had drank tonight and was driving a 
scooter when he fell off without hitting anything else. He was 
wearing a helmet but hit his head and thinks he
may have lost consciousness for a few minutes. He only reports 
HA and denies neck pain, numbness, weakness, abd pain, n/v, 
chest pain, SOB, BLE pain. Per EMS, the patient was alert and 
oriented and had a laceration on his head and
multiple abrasions on his body. EMS BS 129. Patient does not 
know when his last tetanus was.

 
Past Medical History:
PMHx:
HTN
HLD
Rheumatoid arthritis
Depression
Chronic pain
Sleep apnea- CPAP at home
C3-C7 cervical fusion
L2-L5 lami with fusion
R hand surgery with fusion
Jaw/neck surgical repair s/p assault ___ year ago
Nasal fracture in childhood due to sports injury

 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Admission Physical Exam:
HR: 99 BP: 158/111 Resp: 19 O(2)Sat: 98 Normal
 
Constitutional: No acute distress, intoxicated
HEENT: pupils 2 mm bilaterally, 2 cm laceration on left
temporal area
trachea is midline, no C-spine tenderness
Chest: Bilateral breath sounds, chest wall is stable
Cardiovascular: Regular Rate and Rhythm, 2+DP
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No obvious trauma to upper extremities, pelvis is
stable, no bony daformities to lower extremities, spine was
nontender
Skin: 2 abrasions on left knee and 1 abrasion on right knee
Neuro: slurred speech, alert and oriented, moves all
extremities, no focal motor deficits
Psych: Normal mentation, intoxicated but cooperative
___: No petechiae

Discharge Physical Exam:
VS: T: 98.6, BP: 116/66, HR: 76, RR: 20 O2: 100% ra
GENERAL: A+Ox3 NAD
HEENT: Left forehead laceration with sutures with 4x4 dsg c/d/I, 
edges well-approximated.  
CV: RRR
PULM: mild rhonchi with expiration b/l, no respiratory distress
Extremities: Left knee with several abbrasions, no s/s 
infection.  Warm, well-perfused b/l, no edema. 

  
 
Pertinent Results:
___ 09:15PM   WBC-7.0 RBC-3.40* HGB-11.6* HCT-34.5* 
MCV-102* MCH-34.1* MCHC-33.6 RDW-12.5 RDWSD-46.2
___ 09:15PM   PLT COUNT-152
___ 02:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:21AM   INTUBATED-NOT INTUBA COMMENTS-GREEN TOP
___ 12:21AM   HGB-15.0 calcHCT-45
___ 12:15AM   UREA N-17 CREAT-0.9
___ 12:15AM   LIPASE-44
___ 12:15AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:15AM   WBC-8.7 RBC-4.16* HGB-14.2 HCT-40.2 MCV-97 
MCH-34.1* MCHC-35.3 RDW-12.2 RDWSD-43.4
___ 12:15AM   ___ PTT-29.6 ___
___ 12:15AM   PLT COUNT-187
___ 12:15AM   ___

IMAGING:

___: CXR: 
No acute intrathoracic abnormality.  Healed right eighth 
posterior rib 
fracture and cervical fusion hardware noted.

___: CT C-spine:
No acute fracture or subluxation.  Status post anterior fusion 
from C3 through C7. 
 
___: CT Head:
1.  Intraparenchymal hemorrhage within the left frontal lobe 
measures up to 7.5 mm and likely consist with hemorrhagic 
contusion.  There is no mass effect or surrounding edema. 
  
2.  Trace fluid present within the posterior horn of the right 
lateral 
ventricle. 
  
3.  Right nasal bone fracture is nondisplaced and is without 
overlying soft tissue changes, probably chronic. 

___: CT Chest:
 
1.  No acute intrathoracic, abdominal, or pelvic abnormality. 
  
2.  Hepatic steatosis. 
  
3.  Healed fracture involve the eighth right rib and left sacral 
ala.  Spinal hardware includes posterior fusion of L2 through 
L5. 
  
4.  Right pericardial cyst. 

___: CT Head:
1. Possible new 4 mm x 4 mm cortical contusion of the left 
superior frontal gyrus. 
2. Stable left superior frontal gyrus intraparenchymal 
hemorrhage, likely 
representing a cortical contusion after trauma.  There is no 
significant edema or mass effect. 
3. Stable right occipital horn intraventricular hemorrhage. 
4. No evidence of new hemorrhage 
5. Stable nondisplaced right nasal bone fracture. 

___: MR C-spine:
1. No evidence of spinal cord injury or significant vertebral 
canal narrowing. 
2. Status post anterior fusion C3 through C7 with mild to 
moderate 
degenerative changes. 
3. Moderate left neural foraminal narrowing at C5-6, possibly 
contacting the exiting nerve root.  Correlate with clinical 
examination of the left upper extremity. 
4. Left C6-7 perineural cyst. 

___: L knee x-ray:
No acute fracture is seen.  No concerning bone lesion.  No 
erosion. No 
chondrocalcinosis.  There is no evidence of knee joint effusion. 
 There may be some mild prepatellar soft tissue swelling. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M s/p fall and helmeted crash from scooter 
with + head ___ and brief LOC, + ETOH. He was brought to the 
ED via ambulance where a head CT showed an intraparenchymal 
hemorrhage within the left frontal lobe measuring up to 7.5 mm 
without mass effect or surrounding edema. The patient was noted 
to have a left forehead laceration and sutures were placed. The 
patient was admitted to the Acute Care Surgery service for 
further medical care. 

On HD1, the patient was evaluated by Neurosurgery for the L IPH 
and he was started on Keppra 500mg BID x 7 days. The patient had 
a CT c-spine which was negative for acute fracture or 
subluxation.  On Tertiary exam, the patient reported left knee 
pain with motion, blurred vision in his left eye, and cervical 
spinal tenderness. The patient was placed in a hard collar and 
an MRI c-spine was ordered which showed no evidence of spinal 
cord injury or significant vertebral canal narrowing. The 
patient's hard collar was later removed and a soft collar was 
ordered for comfort. Left knee x-ray was negative for fracture. 

The patient was alert and oriented throughout hospitalization; 
pain was managed with oral acetaminophen, oxycodone and 
hydromorphone IV for breakthrough pain. The patient remained 
stable from a cardiovascular and pulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. Diet was advanced to a Regular diet, which was 
well tolerated. Patient's intake and output were closely 
monitored.  The patient's fever curves were closely watched for 
signs of infection, of which there were none. The patient's 
blood counts were closely watched for signs of bleeding, of 
which there were none.  On HD2, the patient was started on 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient worked with Occupational 
and Physical Therapy and he was cleared to be discharged home 
with outpatient Physical Therapy.    The patient was tolerating 
a diet, ambulating, voiding without assistance, and pain was 
well controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
CloNIDine 0.3 mg PO TID  
FLUoxetine 40 mg PO DAILY  
NIFEdipine CR 30 mg PO DAILY  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID:PRN constipation   
3.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*11 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation   
6.  CloNIDine 0.3 mg PO TID  
7.  FLUoxetine 40 mg PO DAILY  
8.  NIFEdipine CR 30 mg PO DAILY  
9.Cane
Dx: L IPH
Px: Good
Duration: 13 (thirteen) months
10.Outpatient Physical Therapy
Dx: L IPH
Px: Good
Duration: 13 (thirteen) months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left frontal intraparenchymal hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a scooter crash and were 
found to have a small internal head bleed and a laceration to 
your forehead.  Your head injury was evaluated by the 
Neurosurgery service and you were started on a medication called 
Keppra to prevent seizures.  You had imaging of your neck which 
did not demonstrate any acute injuries. You may wear your soft 
neck collar for comfort.  You were evaluated by Occupational and 
Physical Therapy and are now medically cleared to be discharged 
home to continue your recovery.

Please note the following discharge instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
 Persistent nausea or vomiting.
 Increasing confusion, drowsiness or any change in alertness.
 Loss of memory.
 Dizziness or fainting.
 Trouble walking or staggering.
 Worsening of headache or headache feels different.
 Trouble speaking or slurred speech.
 Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
 A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
 Weakness or numbness of an arm or leg.
 Stiff neck or fever.
 Blurry vision, double vision or other problems with your 
eyesight.
 Bleeding or clear liquid drainage from your ears or nose.
 Very sleepy (more than expected) or hard to wake up.
 Unusual sounds in the ear.
 Any new or increased symptoms

 
Followup Instructions:
___